US04760073
1'-(3-Chlorophenyl)-1',4'-dihydro-4'-hydroxy-spiro[cyclopentane-1,3'(2'H)-[1,8]-naphthyridin]-2'-one
To a solution of 2.2 g (6.73 mmol.) of 1'-(3-chlorophenyl)-spiro[cyclopentane-1,3'-[1,8]-naphthyridin]-2',4'-(1'H)dione in 176 mL of (1:1) THF: EtOH (abs.) was added 2.54 g (40 mmol.) of NaBH3CN and 3.0 mL of acetic acid. The solution was stirred at room temperature. An additional 0.2 g (3.2 mmol.) of NaBH3CN and 0.3 mL of acetic acid were added on the fourth day. After 9 days the reaction was stopped by slow addition of 10 mL of water. After concentration, the residue was purified by column chromatography, eluting with CHCl3 -CH3OH(95:5) to yield a colorless solid, 1.82 g. (5.53 mmol. 82%).

reactant | 1'-(3-chlorophenyl)-spiro[cyclopentane-1,3'-[1,8]-naphthyridin]-2',4'-(1'H)dione | 6.73 mmol, 2.2 g | ClC=1C=C(C=CC1)N1C(C2(C(C3=CC=CN=C13)=O)CCCC2)=O | C18H15ClN2O2
reactant | EtOH | CCO | C2H6O
reactant | NaBH3CN | 40 mmol, 2.54 g | [BH3-]C#N.[Na+]
reactant | acetic acid | 3.0 mL | C(C)(=O)O | C2H4O2
reactant | NaBH3CN | 3.2 mmol, 0.2 g | [BH3-]C#N.[Na+]
reactant | acetic acid | 0.3 mL | C(C)(=O)O | C2H4O2
solvent | THF | 176 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 1'-(3-Chlorophenyl)-1',4'-dihydro-4'-hydroxy-spiro[cyclopentane-1,3'(2'H)-[1,8]-naphthyridin]-2'-one | ClC=1C=C(C=CC1)N1C(C2(C(C3=CC=CN=C13)O)CCCC2)=O | C18H17ClN2O2
